US04185118
N-(1-Indanyl)-cis,cis-9,12-octadecadienamide
To a solution of 7.0 g linoleic acid in 250 ml methylenechloride cooled to -20° is added 2.5 g triethylamine, and then dropwise 2.7 g ethyl chloroformate. The reaction mixture is allowed to come to room temperature and then stirred 2 hours. To the reaction mixture is then added, dropwise, 3.4 g 1-aminoindan, and the reaction mixture then stirred for 16 hours. The reaction mixture is then extracted several times with 2 N hydrochloric acid, then with 2 N aqueous sodium hydroxide solution, washed well with saturated aqueous sodium chloride, dried over anh. sodium sulphate, filtered and the filtrate evaporated i.v. to dryness. The resulting residue is rapidly filtered over silica gel, with methylene chloride as solvent. The necessary fractions indicated to contain reaction product by thin layer chromatography of samples are pooled and solvent removed by evaporation under vacuum to give title product as a viscous oil, characterized by NMR (in CDCl3); triplet at 5.15 ppm (4 protons) and doublet at 6.4 ppm (1 proton).

reactant | linoleic acid | 7.0 g | C(CCCCCCC\C=C/C\C=C/CCCCC)(=O)O | C18H32O2
reactant | triethylamine | 2.5 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2.7 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-aminoindan | 3.4 g | NC1CCC2=CC=CC=C12 | C9H11N
solvent | methylenechloride | 250 ml | C(Cl)Cl | CH2Cl2
product | N-(1-Indanyl)-cis,cis-9,12-octadecadienamide | C1(CCC2=CC=CC=C12)NC(CCCCCCC\C=C/C\C=C/CCCCC)=O | C27H41NO
